US08895769B2
A solution of 1-chloromethyl-1-methyl-1-silacyclopentane (1.500 g, 10.1 mmol) and ethyl cyanoacetate (1.29 ml, 12.1 mmol) in acetonitrile (25 ml) was added with potassium iodide (2.01 g, 12.1 mmol) and potassium carbonate (2.09 g, 15.1 mmol), and the mixture was stirred for 38 hours under reflux by heating. The reaction vessel was cooled on ice, the reaction mixture was added with saturated aqueous ammonium chloride, and the mixture was extracted with ethyl acetate. The organic layer was treated in a conventional manner, and the residue was purified by silica gel column chromatography [hexane/ethyl acetate (9:1)] to obtain ethyl 3-[(1-methyl-1-silacyclopentan-1-yl)methyl]-2-cyanopropionate (1.449 g, 64%) as colorless oil.

reactant | 1-chloromethyl-1-methyl-1-silacyclopentane | 10.1 mmol, 1.500 g | ClC[Si]1(CCCC1)C | C6H13ClSi
reactant | ethyl cyanoacetate | 12.1 mmol, 1.29 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | potassium iodide | 12.1 mmol, 2.01 g | [I-].[K+]
reactant | potassium carbonate | 15.1 mmol, 2.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | ethyl 3-[(1-methyl-1-silacyclopentan-1-yl)methyl]-2-cyanopropionate | 1.449 g, 64% | C[Si]1(CCCC1)CCC(C(=O)OCC)C#N | C12H21NO2Si
